US04476131
dl-7-Hydroxy-6-(2-hydroxy-2-methylpropyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline
A solution of 405 mg. (1 mmole) of the lactone of dl-6-carboxymethyl-7-hydroxy-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline, provided in Example 29, in 10 ml. ethyl ether is cooled in an ice bath for 15 minutes. To the cold solution is added slowly by injection 0.80 ml. of 2.9 molar methylmagnesium iodide in ethyl ether. The resulting mixture is allowed to warm to room temperature and stirred for 14 hours. Crystalline ammonium chloride (ca. 100 mg.) is added, the mixture stirred for 20 minutes, water (5 ml.) added and the layers separated. The aqueous layer is extracted with 10 ml. of ether and the combined ether layers are washed with 30 ml. of saturated sodium bicarbonate solution, 30 ml. of brine and 30 ml. of water. The washed organic layer is dried (MgSO4) and solvent evaporated in vacuo to afford the title compound which is purified, if desired, by chromatography.

reactant | dl-6 carboxymethyl-7-hydroxy-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.C(=O)(O)CC1CCCC2N1C1=CC(=CC(=C1CC2)O)OC(C)CCCC2=CC=CC=C2
reactant | methylmagnesium iodide | 2.9 molar | C[Mg]I
reactant | ammonium chloride | ca. 100 mg | [Cl-].[NH4+]
reactant | water | 5 ml | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 7-Hydroxy-6-(2-hydroxy-2-methylpropyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline | OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CC(C)(C)O | C28H39NO3
